US07135475B2
A mixture of sodium hydride (3.24 g, 12.84 mmol) in tetrahydrofuran (35 mL) cooled to 0° C. was treated with a solution of 1H-pyrazole-4-carboxylic acid ethyl ester (1.5 g, 10.7 mmol) in tetrahydrofuran (10 mL). The reaction was warmed to 25° C. and was stirred at 25° C. for 1 h. At this time, the reaction was treated with methyl iodide (1.0 mL, 16.05 mmol) and then was stirred at 25° C. for 18 h. The reaction was then cooled to 0° C. and was treated with a saturated aqueous ammonium chloride solution. The resulting mixture was diluted with ethyl acetate (150 mL). This solution was washed with water (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (1.48 g, 89.7%) as a yellow oil: 1H NMR (DMSO-d6, 300 MHz) δ8.27 (s, 1H), 7.80 (s, 1H), 4.18 (q, J=7.32 Hz, 2H), 3.84 (s, 3H), 1.24 (t, J=6.96 Hz, 3H).

reactant | sodium hydride | 12.84 mmol, 3.24 g | [H-].[Na+]
reactant | 1H-pyrazole-4-carboxylic acid ethyl ester | 10.7 mmol, 1.5 g | C(C)OC(=O)C=1C=NNC1 | C6H8N2O2
reactant | methyl iodide | 16.05 mmol, 1.0 mL | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 1.48 g, 89.7% | C(C)OC(=O)C=1C=NN(C1)C | C7H10N2O2
